* Z:\mnt\design.r\spice\examples\1353.asc
V1 +V 0 5
V2 -V 0 -5
R1 N002 N001 4.64K
V3 IN 0 AC 1
C1 N002 N004 470p
R3 N004 N001 13.3K
R4 N001 IN 4.64K
C2 N001 0 2200p
R2 OUT N003 5.49K
C3 OUT N005 220p
R5 N005 N003 11.3K
R6 N003 N002 5.49K
C4 N003 0 4700p
XU1 0 N004 +V -V N002 LT1352
XU2 0 N005 +V -V OUT LT1352
.ac oct 10 100 100K
* 20KHz, 4th Order Butterworth Filter
.lib LTC.lib
.backanno
.end
